US07241791B2
Step 2: (2-Fluoro-3-methylphenyl)-(4-methoxyphenyl)-methanone
Prepared according to Method A step 2-fluoro-N-methoxy-N,3-dimethylbenzamide (4.8 g, 24 mmol) and 4-methoxyphenylmagnesium bromide (50 mL, 0.5 M in THF) to give 3.7 g of the title compound as a white solid.

reactant | 2-fluoro-N-methoxy-N,3-dimethylbenzamide | 24 mmol, 4.8 g | FC1=C(C(=O)N(C)OC)C=CC=C1C | C10H12FNO2
reactant | 4-methoxyphenylmagnesium bromide | 0.5 M, 50 mL | COC1=CC=C(C=C1)[Mg]Br
product | (2-Fluoro-3-methylphenyl)-(4-methoxyphenyl)-methanone | 3.7 g | FC1=C(C=CC=C1C)C(=O)C1=CC=C(C=C1)OC | C15H13FO2
